US07425555B2
Intermediate 12: 5(4Iodophenyl)-3-methyl-[1,2,4]oxadiazole
1,1′-Carbonyldiimidazole (0.49 g, 3 mmol) was added to a solution of 4-iodobenzoic acid (0.5 g, 2 mmol) in dry dimethylformamide (4 ml) and stirred at room temperature for 30 minutes. N-hydroxy-acetamidine (0.224 g, 3 mmol) was added and stirring at room temperature continued for 16 hours. Sodium methoxide in methanol (25% wt solution; 1.1 ml, 5 mmol) was added and the mixture heated at 80° C. for 6 hours. Once cool, ethyl acetate (50 ml) and water (50 ml) were added. The organic layer was washed with water (50 ml), brine (50 ml), dried over magnesium sulfate, filtered and solvent removed in vacuo. The residue was purified by silica SPE cartridge (5 g) (100% cyclohexane, 20:1 cyclohexane/ethyl acetate v:v to 10:1 cyclohexane/ethyl acetate v:v) to yield the desired product as a white solid (0.15 g, 0.52 mmol).

reactant | 1,1′-Carbonyldiimidazole | 3 mmol, 0.49 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-iodobenzoic acid | 2 mmol, 0.5 g | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | N-hydroxy-acetamidine | 3 mmol, 0.224 g | ONC(C)=N | C2H6N2O
reactant | Sodium methoxide | C[O-].[Na+]
reactant | methanol | 5 mmol, 1.1 ml | CO | CH4O
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 5(4Iodophenyl)-3-methyl-[1,2,4]oxadiazole | 0.52 mmol, 0.15 g | IC1=CC=C(C=C1)C1=NC(=NO1)C | C9H7IN2O
